US06166208
Step 1A: Synthesis of 2,3-Dihydro-6-iodo-3-propyl-2-thioxo-4(1H)-quinazolinone
To a slurry of 2-amino-5-iodobenzoic acid (100 g, 0.38 mol) in n-propyl acetate (315 mL) was added triethylamine (58 mL, 0.42 mol) at room temperature. The resulting solution was heated to reflux and n-propyl isothiocyanate (43 mL, 0.42 mol) was added over a one hour period. The reaction mixture was maintained at reflux for 18 h, then cooled to room temperature and filtered. The wetcake was washed with fresh propyl acetate and dried at 60° C. under vacuum. In this manner, 113 g of the title compound was obtained as a tan solid. m.p.>200° C.; 1H NMR (Me2SO--d6): δ13.02 (bs,1H), 8.22 (d,1H), 8.06 (dd,1H), 7.21 (d,1H), 4.34 (m,2H), 1.69 (m,2H), 0.93 (t,3H).

reactant | 2-amino-5-iodobenzoic acid | 0.38 mol, 100 g | NC1=C(C(=O)O)C=C(C=C1)I | C7H6INO2
reactant | triethylamine | 0.42 mol, 58 mL | C(C)N(CC)CC | C6H15N
reactant | n-propyl isothiocyanate | 0.42 mol, 43 mL | C(CC)N=C=S | C4H7NS
solvent | n-propyl acetate | 315 mL | C(C)(=O)OCCC | C5H10O2
product | 2,3-Dihydro-6-iodo-3-propyl-2-thioxo-4(1H)-quinazolinone | 113 g | IC=1C=C2C(N(C(NC2=CC1)=S)CCC)=O | C11H11IN2OS
